US04080379
2,4-Dioxo-hexahydro-1,3,5-trimethyl-6-[2-hydroxy-4-amino-phenyl]-s-triazine
23.6 g (0.1 mol) of 2,4-dioxo-1,2,3,4-tetrahydro-1,3,5-trimethyl-s-triazinium bromide are dissolved in 50 ml of water and 10.9 g (0.1 mol) of m-aminophenol are added. After a few minutes, a clear solution has formed. 8 g of sodium bicarbonate are added to the solution. 25 g (89%) of 2,4-dioxo-hexahydro-1,3,5-trimethyl-6-[2-hydroxy-4-amino-phenyl]-s-triazine precipitate out as white crystals, which, after they have been dissolved in aqueous hydrochloric acid and the solution has been clarified with active charcoal and neutralised, melt at 240° C.

reactant | 2,4-dioxo-1,2,3,4-tetrahydro-1,3,5-trimethyl-s-triazinium bromide | 0.1 mol, 23.6 g | [Br-].O=C1[NH+](CN(C(N1C)=O)C)C
reactant | m-aminophenol | 0.1 mol, 10.9 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | sodium bicarbonate | 8 g | C([O-])(O)=O.[Na+]
solvent | water | 50 ml | O | H2O
product | 2,4-Dioxo-hexahydro-1,3,5-trimethyl-6-[2-hydroxy-4-amino-phenyl]-s-triazine | O=C1N(C(N(C(N1C)=O)C)C1=C(C=C(C=C1)N)O)C | C12H16N4O3
